US08835602B2
Step VI: Synthesis of Boc-Ala-Ala-NH—(CH2)3—Br
To a cold (−15° C.) solution of Boc-Ala-Ala-OH (908 mg, 3.5 mmol) and NMM (570 μl, 5.23 mmols) in THF (15 ml) was added ECF (341 μl, 3.6 mmols) under N2 atmosphere and vigorously stirred. After 2 min of stirring, a solution of 1-amino-3-propylbromide hydrobromide (976 mg, 4.90 mmols) in a mixture of THF:DMF (4 mL: 3 mL) was added to the mixture followed by NMM (951 μl, 8.73 mmols) and stirred. After 10 min the mixture was warmed to 25° C. and stirred for further 8 h. THF was removed under reduced pressure and the resulting viscous solution was diluted with water (10 mL) and thoroughly extracted with ethyl acetate. The combined organic extracts were washed with 5 ml saturated citric acid, 5 ml saturated NaHCO3 and dried over by Na2SO4 and concentrated to give a residue, which was purified by silica gel flash column chromatograph (EtOAc:Hexane—3:7) to give the desired product as a solid (m.p. 146° C.) in good yields (1.022 g, 78%). (TLC:EtOAc—Rf—0.39).

reactant | Boc-Ala-Ala-OH | 3.5 mmol, 908 mg | N([C@@H](C)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O5
reactant | NMM | 5.23 mmols, 570 μl | CN1CCOCC1 | C5H11NO
reactant | 1-amino-3-propylbromide hydrobromide | 4.90 mmols, 976 mg | Br.NCCCBr
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | NMM | 8.73 mmols, 951 μl | CN1CCOCC1 | C5H11NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Boc-Ala-Ala-NH—(CH2)3—Br | N([C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCBr)C(=O)OC(C)(C)C | C14H26BrN3O4
